US05973153
reacting 5,7-dichloro-3-carboethoxy-4-hydroxyquinoline with a base selected from the group consisting of sodium carbonate, potassium carbonate, sodium hydroxide, and potassium hydroxide, to obtain a salt of 5,7-dichloro-4-hydroxyquinoline-3-carboxylic acid,

reactant | 5,7-dichloro-3-carboethoxy-4-hydroxyquinoline | ClC1=C2C(=C(C=NC2=CC(=C1)Cl)C(=O)OCC)O | C12H9Cl2NO3
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | sodium hydroxide | [OH-].[Na+]
reactant | potassium hydroxide | [OH-].[K+]
product | 5,7-dichloro-4-hydroxyquinoline-3-carboxylic acid | ClC1=C2C(=C(C=NC2=CC(=C1)Cl)C(=O)O)O | C10H5Cl2NO3
